US07700639B2
1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-[methyl({[(1-phenylethylidene)amino]oxy}carbonyl)amino]-4-[(trifluoromethyl)sulfinyl]-1H-pyrazole-3-carbonitrile
To a mixture of 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-methylamino-4-trifluoromethylsulfinylpyrazole (0.5 g, 1.1 mmol), acetophenone-oxime (0.165 g, 1.2 mmol), diisopropylethylamine (0.43 g, 3.3 mmol) and 4-dimethylaminopyridine (41 mg, 0.3 mmol) in tetrahydrofuran (15 ml) was added a toluene solution of phosgene (0.66 g, 20%, 1.2 mmol) at 0-5° C. The mixture was stirred at reflux for 2 hours. Extractive workup (heptane-ethyl acetate, water) and chromatography gave the title product (Compound 3-02, 0.14 g) as a solid; 1H-NMR: 2.25 (3H), 3.21 (3H), 7.42 and 7.68 (5H), 7.82 (2H); 19F-NMR: −64.3 (PhCF3); −72.9 (SO—CF3).

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-methylamino-4-trifluoromethylsulfinylpyrazole | 1.1 mmol, 0.5 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1NC)S(=O)C(F)(F)F)C#N | C13H6Cl2F6N4OS
reactant | acetophenone-oxime | 1.2 mmol, 0.165 g | C(C)(C1=CC=CC=C1)=NO | C8H9NO
reactant | diisopropylethylamine | 3.3 mmol, 0.43 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosgene | 1.2 mmol, 0.66 g | C(=O)(Cl)Cl | CCl2O
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 0.3 mmol, 41 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-[methyl({[(1-phenylethylidene)amino]oxy}carbonyl)amino]-4-[(trifluoromethyl)sulfinyl]-1H-pyrazole-3-carbonitrile | 0.14 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1N(C(=O)ON=C(C)C1=CC=CC=C1)C)S(=O)C(F)(F)F)C#N | C22H13Cl2F6N5O3S
